US07253286B2
2-Amino-3-bromo-4-(4-amino-3-chlorophenoxy)pyridine
2-Amino-4-(4-amino-3-chlorophenoxy)pyridine (1.0 g), N-bromosuccinimide (0.78 g) and isopropanol (10 ml) were stirred for 15 minutes under reflux. The mixture was returned to room temperature, water was added, and extraction was performed with ethyl acetate. Silica gel was added to the extract solution and the solvent was distilled off under reduced pressure. The silica gel was charged into a dry column packed with silica gel, and purification was performed by column chromatography (hexane:ethyl acetate=2:1, followed by 1:1, ethyl acetate) to obtain 400 mg of the target substance as a brown oil.

reactant | 2-Amino-4-(4-amino-3-chlorophenoxy)pyridine | 1.0 g | NC1=NC=CC(=C1)OC1=CC(=C(C=C1)N)Cl | C11H10ClN3O
reactant | N-bromosuccinimide | 0.78 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | isopropanol | 10 ml | C(C)(C)O | C3H8O
solvent | water | O | H2O
product | 2-Amino-3-bromo-4-(4-amino-3-chlorophenoxy)pyridine | NC1=NC=CC(=C1Br)OC1=CC(=C(C=C1)N)Cl | C11H9BrClN3O
